US06878707B2
Sodium hydride is added to a solution of methyl 2-hydroxy-3-methylbenzoate (694 mg, 4.18 mmol) in 15 mL of DMF at 0° C. The reaction is stirred for 15 minutes after which 4-trifluoromethyl-benzyl bromide (1.0 g, 4.18 mmol) is added. The reaction is allowed to warm up to room temperature and stirred overnight. The mixture is partitioned between ethyl acetate and water. The organic phase is washed with brine, dried over sodium sulfate, filtered and concentrated. The residue is chromatographed on silica gel using 4% ethyl acetate in hexane as the eluent to obtain methyl 2-(4-trifluoromethylbenzyloxy)-3-methylbenzoate as a clear liquid.

reactant | Sodium hydride | [H-].[Na+]
reactant | methyl 2-hydroxy-3-methylbenzoate | 4.18 mmol, 694 mg | OC1=C(C(=O)OC)C=CC=C1C | C9H10O3
reactant | 4-trifluoromethyl-benzyl bromide | 4.18 mmol, 1.0 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | methyl 2-(4-trifluoromethylbenzyloxy)-3-methylbenzoate | FC(C1=CC=C(COC2=C(C(=O)OC)C=CC=C2C)C=C1)(F)F | C17H15F3O3
